US06320050B1
A solution of 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid (500 mg, 2.0 mmol) in methylene chloride (20 mL) cooled to 0° C. was treated with a 2.0M solution of oxalyl chloride in methylene chloride (1.1 mL, 2.20 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 10 min then at 25° C. for 30 min. The reaction mixture was then treated with 2-aminothiazole (444 mg, 4.42 mmol) and N,N-diisopropylethylamine (0.84 mL, 4.83 mmol) in tetrahydrofuran (10.1 mL). This solution was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3-methoxy-phenyl)-N-thiazol-2-yl-propionamide (549 mg, 82.6%) as a white solid: mp 44-45° C.; EI-HRMS m/e calcd for C18H22N2O2S (M+) 330.1402 found 330.1398.

reactant | 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid | 2.0 mmol, 500 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=CC=C1)OC | C15H20O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 4.42 mmol, 444 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 4.83 mmol, 0.84 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10.1 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 2.20 mmol, 1.1 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3-methoxy-phenyl)-N-thiazol-2-yl-propionamide | 549 mg, 82.6% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=CC=C1)OC | C18H22N2O2S
